US08648087B2
Step E: Preparation of 3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)benzenamine:
To a solution of concentrated aqueous HCl (10 mL) in methanol (10 mL) was added N-(3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)formamide (1.70 g, 6.04 mmol). After heating to reflux for 2 hours, the reaction mixture was cooled to room temperature and diluted with water (100 mL). The mixture was neutralized with sodium bicarbonate and extracted with dichloromethane. The organic solution was dried over Na2SO4, filtered and concentrated under reduced pressure to provide the product.

reactant | HCl | 10 mL | Cl | ClH
reactant | N-(3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)formamide | 6.04 mmol, 1.70 g | CC=1C=C(C=CC1OC1=CC2=C(N(C=N2)C)C=C1)NC=O | C16H15N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)benzenamine | CC=1C=C(C=CC1OC1=CC2=C(N(C=N2)C)C=C1)N | C15H15N3O
